### PR TITLE
[Merged by Bors] - feat: define C^n submersions

### PR DESCRIPTION
**Pull request by Marygold-Dusk**
This PR defines submersions between C^n manifolds. In the infinite-dimensional setting, submersions are defined via local normal forms rather than surjectivity of the mfderiv. A map f is a submersion at x if, in suitable charts around x and f x, it has the form (u, v) ↦ u after identifying the model space with a product.

We prove a few basic properties:
- being a submersion is a local property,
- products of submersions are submersions,
- the set of submersed points is open

Future PRs will prove that submersions are C^n and deduce equivalence with the standard definition in finite dimensions. From the path towards the regular value theorem.

This file was developed under the supervision of Michael Rothgang.

Co-authored-by: Michael Rothgang <rothgang@math.uni-bonn.de>

---

Most of the design is analogues to immersions.

### CODE REVIEW

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 1]
```diff
@@ -0,0 +1,595 @@
+/-
+Copyright (c) 2025 Michael Rothgang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Michael Rothgang, Samantha Naranjo Guevara
+-/
+module
+
+public import Mathlib.Geometry.Manifold.Immersion
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: You actually don't need to import immersions in this file; importing just the files imported there suffices:

```suggestion
public import Mathlib.Geometry.Manifold.IsManifold.ExtChartAt
public import Mathlib.Geometry.Manifold.LocalSourceTargetProperty
public import Mathlib.Analysis.Normed.Module.Shrink
public import Mathlib.Topology.Algebra.Module.TransferInstance
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 2]
```diff
@@ -0,0 +1,595 @@
...
+  submersion, so `IsSubmersion(At)` is perfectly adequate. Nevertheless, explicit control over
+  complements becomes useful when studying the local characterisation of submanifolds. Locally,
+  a submanifold can be described either as the image of a submersion or as the preimage of
+  an immersion, and this equivalence requires working with the same choice of complement.
+  Providing a version of the definition that includes complements allows this equivalence to be
+  stated cleanly.
+* To avoid a free universe variable in `IsSubmersion(At)`, we require the complement to be taken in
+  the same universe as the model normed space for `N`. We also offer convenience constructors that
+  relax this requirement to preserve usability. This relies on the observation that the equivalence
+  in the definition of immersions allows the universe of the complement to be reduced,
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: There are some doc-strings that still mention immersions. Can you fix those, please?
(Searching for `imm` should find them all.)

**Review by grunweg — COMMENTED** [review]
Two small comments I noticed already.

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 3]
```diff
@@ -41,34 +41,32 @@ if there exist charts near `x` and `f x` in which `f` looks like the standard pr
...
-  Providing a version of the definition that includes complements allows this equivalence to be
-  stated cleanly.
-* To avoid a free universe variable in `IsSubmersion(At)`, we require the complement to be taken in
-  the same universe as the model normed space for `N`. We also offer convenience constructors that
-  relax this requirement to preserve usability. This relies on the observation that the equivalence
-  in the definition of submersions allows the universe of the complement to be reduced,
-  as implemented in `IsSubmersion(At)OfComplement.small`
-  and  `IsSubmersion(At)OfComplement.smallEquiv`.
+  complements is useful when studying the local characterisation of submanifolds: locally,
+  a submanifold is described either as the image of an immersion, or the preimage of a submersion
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: The old version of this doc-string was wrong; the immersions version was correct.

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 4]
```diff
@@ -41,34 +41,32 @@ if there exist charts near `x` and `f x` in which `f` looks like the standard pr
...
+  --- w.r.t. the same complement. Providing a version of the definition that includes complements
+  enables stating this equivalence cleanly.
+* To avoid a free universe variable in `IsSubmersion(At)`, we ask for a complement in the same
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: "complement taken in the same universe" reads strangely to me: the point is simply that if `N` has type `Type u`, the complement shall also have type `Type u` (and not `Type v` for some larger universe).

**Review by grunweg — COMMENTED** [review]
I just tweaked the module doc-string, by comparing it closely with the immersions one. Some phrasings of yours I preferred (and copied to the immersions doc-string); some I disagree with stylistically. A few were slightly wrong, so I changed these also.

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 5]
```diff
@@ -0,0 +1,598 @@
...
+  use aux.smallComplement, by infer_instance, by infer_instance
+  rwa [← IsSubmersionAtOfComplement.congr_F aux.smallEquiv]
+
+/-- A choice of complement of the model normed space `E` of `M` in the model normed space
+`E'` of `N` -/
+def complement (h : IsSubmersionAt I J n f x) : Type u := by
+  rw [IsSubmersionAt_def] at h
+  exact Classical.choose h
+
+noncomputable instance (h : IsSubmersionAt I J n f x) : NormedAddCommGroup h.complement := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: You don't need `noncomputable` again: writing `noncomputable section` at the beginning already tells Lean to insert `noncomputable` whenever it needs to.
Please also fix the other three places in this file.

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 6]
```diff
@@ -0,0 +1,598 @@
...
+**Please do not work** on this file without prior discussion with Michael Rothgang.
+This will be the topic of Samantha Naranjo's master's thesis, and it's nice to coordinate.
+
+-/
+
+@[expose] public noncomputable section
+
+open scoped Topology ContDiff
+
+open Function Set Manifold
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: I think it's a good idea to have submersions in the `Manifold` namespace (as for immersions). Inside that namespace, you don't need to open the `Manifold` namespace either.

```suggestion
open scoped Topology ContDiff
open Function Set

namespace Manifold
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 7]
```diff
@@ -0,0 +1,598 @@
...
+`(u, v) ↦ u`. The results in this file follow from abstract results about such local properties.
+
+## Main definitions
+
+* `IsSubmersionAtOfComplement F I J n f x` means a map `f : M → N` between `C^n` manifolds `M` and
+  `N` is a submersion at `x : M`: there are charts `φ` and `ψ` of `M` and `N` around `x` and `f x`,
+  respectively, such that in these charts, `f` looks like `(u, v) ↦ u`, w.r.t. some equivalence
+  `E ≃L[𝕜] (E'' × F)`. Differentiability of `f` is not assumed as it follows from this definition.
+* `IsSubmersionAt I J n f x` means that `f` is a `C^n` submersion at `x : M` for some choice of a
+  complement `F` of the model normed space `E` of `M` in the model normed space `E'` of `N`.
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]:
```suggestion
  complement `F` of the model normed space `E` of `M` in the model normed space `E''` of `N`.
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 8]
```diff
@@ -0,0 +1,598 @@
...
+  {I : ModelWithCorners 𝕜 E H} {I' : ModelWithCorners 𝕜 E' H'}
+  {J : ModelWithCorners 𝕜 E'' G} {J' : ModelWithCorners 𝕜 E''' G'}
+
+variable {M M' N N' : Type*}
+  [TopologicalSpace M] [ChartedSpace H M] [TopologicalSpace M'] [ChartedSpace H' M']
+  [TopologicalSpace N] [ChartedSpace G N] [TopologicalSpace N'] [ChartedSpace G' N']
+  {n : WithTop ℕ∞}
+
+variable (F I J M N) in
+/-- The local property of being a submersion at `x` -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: Let's provide some more detail (matching that the immersions file does):
```suggestion
/-- The local property of being a submersion at a point: `f : M → N` is a submersion at `x` if
there exist charts `φ` and `ψ` of `M` and `N` around `x` and `f x`, respectively, such that in these
charts, `f` looks like the projection `(u, v) ↦ u`.

This definition has a fixed parameter `F`, which is a choice of complement of `E''` in the model
normed space `E` of `M`: being a submersion at `x` includes a choice of linear isomorphism
between `E'' × F` and `E`. -/
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 9]
```diff
@@ -0,0 +1,598 @@
...
+
+-/
+
+@[expose] public noncomputable section
+
+open scoped Topology ContDiff
+
+open Function Set Manifold
+
+universe u
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean:96]:
```suggestion
-- We manually name the universe of `E` as `IsSubmersionAt` will use it.
universe u
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 10]
```diff
@@ -0,0 +1,598 @@
...
+
+variable {M M' N N' : Type*}
+  [TopologicalSpace M] [ChartedSpace H M] [TopologicalSpace M'] [ChartedSpace H' M']
+  [TopologicalSpace N] [ChartedSpace G N] [TopologicalSpace N'] [ChartedSpace G' N']
+  {n : WithTop ℕ∞}
+
+variable (F I J M N) in
+/-- The local property of being a submersion at `x` -/
+def SubmersionAtProp :
+    ((M → N) → OpenPartialHomeomorph M H → OpenPartialHomeomorph N G → Prop) :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: You don't need the parentheses, and then everything fits on one line:

```suggestion
def SubmersionAtProp : (M → N) → OpenPartialHomeomorph M H → OpenPartialHomeomorph N G → Prop :=
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 11]
```diff
@@ -0,0 +1,598 @@
...
+  fun f domChart codChart ↦
+    ∃ equiv : E ≃L[𝕜] (E'' × F),
+    EqOn ((codChart.extend J) ∘ f ∘ (domChart.extend I).symm) (Prod.fst ∘ equiv)
+      (domChart.extend I).target
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: A bit more compactly:
```suggestion
  fun f domChart codChart ↦ ∃ equiv : E ≃L[𝕜] (E'' × F),
    EqOn ((codChart.extend J) ∘ f ∘ (domChart.extend I).symm) (Prod.fst ∘ equiv)
      (domChart.extend I).target
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 12]
```diff
@@ -0,0 +1,598 @@
...
+    IsLocalSourceTargetProperty (SubmersionAtProp F I J M N) where
+  mono_source {f φ ψ s} hs := fun ⟨equiv, hf⟩ ↦ ⟨equiv, hf.mono (by simp; grind)⟩
+  congr {f g φ ψ} hfg hf := by
+    obtain ⟨equiv, hf⟩ := hf
+    refine ⟨equiv, EqOn.trans (fun x hx ↦ ?_) (hf.mono (by simp))⟩
+    have : ((φ.extend I).symm) x ∈ φ.source := by simp_all
+    grind
+
+variable (F I J n) in
+/-- `f : M → N` is a `C^k` submersion at `x` if there are charts `φ` and `ψ` of `M` and `N`
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: There's a mismatch here: the doc-strings talk about `C^k`, while the statement uses `C^n`: let's be consistent (and tweak the doc-strings). This applies many times throughout this file.

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 13]
```diff
@@ -0,0 +1,598 @@
...
+around `x` and `f x`, respectively such that in these charts, `f` looks like `(u, v) ↦ u`.
+Additionally, we demand that `f` map `φ.source` into `ψ.source`.
+
+NB. We don't know the particular atlasses used for `M` and `N`, so asking for `φ` and `ψ` to be
+in the `atlas` would be too optimistic: lying in the `maximalAtlas` is sufficient.
+-/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean:150]: Let's add more detail again:
```suggestion
This definition has a fixed parameter `F`, which is a choice of complement of `E''` in `E`:
being an immersion at `x` includes a choice of linear isomorphism between `E'' × F` and `E`.
While the particular choice of complement is often not important, choosing a complement is useful
in some settings, such as proving that embedded submanifolds are locally given either by an
immersion or a submersion.
Unless you have a particular reason, prefer to use `IsSubmersionAt` instead.
-/
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 14]
```diff
@@ -0,0 +1,598 @@
...
+where the choice of `F` enters.
+If you need stronger control over the complement `F`, use `IsSubmersionAtOfComplement` instead.
+-/
+irreducible_def IsSubmersionAt (I : ModelWithCorners 𝕜 E H) (J : ModelWithCorners 𝕜 E'' G)
+    (n : WithTop ℕ∞) (f : M → N) (x : M) : Prop :=
+  ∃ (F : Type u) (_ : NormedAddCommGroup F) (_ : NormedSpace 𝕜 F),
+    IsSubmersionAtOfComplement F I J n f x
+
+variable {f g : M → N} {x : M}
+namespace IsSubmersionAtOfComplement
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean:175]:
```suggestion

namespace IsSubmersionAtOfComplement
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 15]
```diff
@@ -0,0 +1,598 @@
...
+    EqOn ((codChart.extend J) ∘ f ∘ (domChart.extend I).symm) (Prod.fst ∘ equiv)
+      (domChart.extend I).target
+
+omit [ChartedSpace H M] [ChartedSpace G N] in
+/-- Being a submersion at `x` is a local property. -/
+lemma isLocalSourceTargetProperty_submmersionAtProp :
+    IsLocalSourceTargetProperty (SubmersionAtProp F I J M N) where
+  mono_source {f φ ψ s} hs := fun ⟨equiv, hf⟩ ↦ ⟨equiv, hf.mono (by simp; grind)⟩
+  congr {f g φ ψ} hfg hf := by
+    obtain ⟨equiv, hf⟩ := hf
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: Slightly nicer:

```suggestion
  congr {f g φ ψ} hfg := by
    intro ⟨equiv, hf⟩
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 16]
```diff
@@ -0,0 +1,598 @@
...
+
+NB. We don't know the particular atlasses used for `M` and `N`, so asking for `φ` and `ψ` to be
+in the `atlas` would be too optimistic: lying in the `maximalAtlas` is sufficient.
+
+Implicit in this definition is an abstract choice `F` of a complement of `E''` in `E`: being
+a submersion at `x` includes a choice of linear isomorphism between `E` and `E'' × F`, which is
+where the choice of `F` enters.
+If you need stronger control over the complement `F`, use `IsSubmersionAtOfComplement` instead.
+-/
+irreducible_def IsSubmersionAt (I : ModelWithCorners 𝕜 E H) (J : ModelWithCorners 𝕜 E'' G)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: You're copy-pasting a lot of variables here, just to make arguments explicit in this definition --- this can get tedious pretty quickly. You can use the `variable` command to do this: writing `variable (I J n) in
` right before the doc-string of this definition makes `I`, `J` and `n` explicitly in the definition, so you don't have to re-declare them.

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 17]
```diff
@@ -0,0 +1,598 @@
...
+/-- `f : M → N` is a `C^k` submersion at `x` if there are charts `φ` and `ψ` of `M` and `N`
+around `x` and `f x`, respectively such that in these charts, `f` looks like `(u, v) ↦ u`.
+Additionally, we demand that `f` map `φ.source` into `ψ.source`.
+
+NB. We don't know the particular atlasses used for `M` and `N`, so asking for `φ` and `ψ` to be
+in the `atlas` would be too optimistic: lying in the `maximalAtlas` is sufficient.
+-/
+irreducible_def IsSubmersionAtOfComplement (f : M → N) (x : M) : Prop :=
+  LiftSourceTargetPropertyAt I J n f x (SubmersionAtProp F I J M N)
+
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean:153]:
```suggestion

-- Lift the universe from `E''`, to avoid a free universe parameter.
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 18]
```diff
@@ -0,0 +1,598 @@
...
+    (hdomChart : domChart ∈ IsManifold.maximalAtlas I n M)
+    (hcodChart : codChart ∈ IsManifold.maximalAtlas J n N)
+    (hsource : domChart.source ⊆ f ⁻¹' codChart.source)
+    (hwrittenInExtend : EqOn ((codChart.extend J) ∘ f ∘ (domChart.extend I).symm) (Prod.fst ∘ equiv)
+      (domChart.extend I).target) : IsSubmersionAtOfComplement F I J n f x := by
+  rw [IsSubmersionAtOfComplement_def]
+  use domChart, codChart
+  use equiv
+
+lemma mk_of_continuousAt {f : M → N} {x : M} (hf : ContinuousAt f x) (equiv : E ≃L[𝕜] (E'' × F))
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean:192]: Can you add a doc-string for this lemma? (You can follow the one in `Immersion.lean`.)

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 19]
```diff
@@ -0,0 +1,598 @@
...
+    EqOn ((h.codChart.extend J) ∘ f ∘ (h.domChart.extend I).symm) (Prod.fst ∘ h.equiv)
+      (h.domChart.extend I).target := by
+  rw [IsSubmersionAtOfComplement_def] at h
+  exact Classical.choose_spec <| LiftSourceTargetPropertyAt.property h
+
+lemma property (h : IsSubmersionAtOfComplement F I J n f x) :
+    LiftSourceTargetPropertyAt I J n f x (SubmersionAtProp F I J M N) := by
+  rwa [IsSubmersionAtOfComplement_def] at h
+
+lemma map_target_subset_target (h : IsSubmersionAtOfComplement F I J n f x) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: Can you add a minimal doc-string, at least referring to `target_subset_preimage_target`? (You don't have to copy over the other discussion.)

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 20]
```diff
@@ -0,0 +1,598 @@
...
+    (Prod.fst ∘ h.equiv) '' (h.domChart.extend I).target ⊆ (h.codChart.extend J).target := by
+  rw [← h.writtenInCharts.image_eq, Set.image_comp, Set.image_comp,
+    PartialEquiv.symm_image_target_eq_source, OpenPartialHomeomorph.extend_source,
+    ← PartialEquiv.image_source_eq_target]
+  have : f '' h.domChart.source ⊆ h.codChart.source := by
+    simp [h.source_subset_preimage_source]
+  grw [this, OpenPartialHomeomorph.extend_source]
+
+lemma target_subset_preimage_target (h : IsSubmersionAtOfComplement F I J n f x) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean:270]: Can you add a doc-string also? (You can mimick the immersion version.)

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 21]
```diff
@@ -0,0 +1,598 @@
...
+    (h.domChart.extend I).target ⊆ (Prod.fst ∘ h.equiv) ⁻¹' (h.codChart.extend J).target :=
+  fun _x hx ↦ h.map_target_subset_target (mem_image_of_mem _ hx)
+
+lemma congr_of_eventuallyEq (hf : IsSubmersionAtOfComplement F I J n f x) (hfg : f =ᶠ[𝓝 x] g) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean:276]: Can you add a doc-string here? Similarly below for `congr_iff_of_eventuallyEq`.

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 22]
```diff
@@ -0,0 +1,598 @@
...
+    (hg : IsSubmersionAtOfComplement F' I' J' n g x') :
+    IsSubmersionAtOfComplement (F × F') (I.prod I') (J.prod J') n (Prod.map f g) (x, x') := by
+  rw [IsSubmersionAtOfComplement_def]
+  apply LiftSourceTargetPropertyAt.prodMap hf.property hg.property
+  rintro f φ₁ ψ₁ g φ₂ ψ₂ ⟨equiv₁, hfprop⟩ ⟨equiv₂, hgprop⟩
+  use (equiv₁.prodCongr equiv₂).trans (ContinuousLinearEquiv.prodProdProdComm 𝕜 E'' F E''' F')
+  rw [φ₁.extend_prod φ₂, ψ₁.extend_prod, PartialEquiv.prod_target, eqOn_prod_iff]
+  exact ⟨fun x ⟨hx, hx'⟩ ↦ by simpa using hfprop hx, fun x ⟨hx, hx'⟩ ↦ by simpa using hgprop hx'⟩
+
+/-- If `f` is an submersion at `x` w.r.t. some complement `F`, it is an submersion at `x`. -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: The immersions analogue has another paragraph of doc-string: can you add something similar here, please?

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 23]
```diff
@@ -0,0 +1,598 @@
...
+lemma writtenInCharts (h : IsSubmersionAt I J n f x) :
+    EqOn ((h.codChart.extend J) ∘ f ∘ (h.domChart.extend I).symm) (Prod.fst ∘ h.equiv)
+      (h.domChart.extend I).target :=
+  h.isSubmersionAtOfComplement_complement.writtenInCharts
+
+lemma property (h : IsSubmersionAt I J n f x) :
+    LiftSourceTargetPropertyAt I J n f x (SubmersionAtProp h.complement I J M N) :=
+  h.isSubmersionAtOfComplement_complement.property
+
+lemma map_target_subset_target (h : IsSubmersionAt I J n f x) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: Can you add a brief doc-string, please (similar to the version above)?

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 24]
```diff
@@ -0,0 +1,598 @@
...
+
+end IsSubmersionAt
+
+variable (F I J n) in
+/-- `f : M → N` is a `C^k` submersion if around each point `x ∈ M`,
+there are charts `φ` and `ψ` of `M` and `N` around `x` and `f x`, respectively
+such that in these charts, `f` looks like `(u, v) ↦ u`.
+
+In other words, `f` is a submersion at each `x ∈ M`.
+-/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: Can you add an analogue of the last paragraph for `IsImmersionOfCompletement`, please?

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 25]
```diff
@@ -0,0 +1,598 @@
...
+lemma isSubmersion (h : IsSubmersionOfComplement F I J n f) : IsSubmersion I J n f := by
+  by_cases! hM : IsEmpty M
+  · rw [IsSubmersion]
+    use PUnit, by infer_instance, by infer_instance
+    exact fun x ↦ (IsEmpty.false x).elim
+  inhabit M
+  let x : M := Inhabited.default
+  use (h x).smallComplement, by infer_instance, by infer_instance
+  exact (IsSubmersionOfComplement.congr_F (h x).smallEquiv).mp h
+
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean:565]: Can you add and prove that the identity map is a submersion, i.e. an analogue of `Manifold.IsImmersionOfComplement.id`?

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 26]
```diff
@@ -0,0 +1,598 @@
...
+/-- If `f: M → N` and `g: M' × N'` are submersions at `x` and `x'`, respectively,
+then `f × g: M × N → M' × N'` is an submersion at `(x, x')`. -/
+theorem prodMap {f : M → N} {g : M' → N'}
+    [IsManifold I n M] [IsManifold I' n M'] [IsManifold J n N] [IsManifold J' n N']
+    (hf : IsSubmersion I J n f) (hg : IsSubmersion I' J' n g) :
+    IsSubmersion (I.prod I') (J.prod J') n (Prod.map f g) :=
+  (hf.isSubmersionOfComplement_complement.prodMap
+    hg.isSubmersionOfComplement_complement ).isSubmersion
+
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean:613]: ... and also prove `protected lemma id`, please.

**Review by grunweg — COMMENTED** [review]
Thanks for the PR! I looked at the code in detail, also comparing it to the `Immersions` file to make sure there are no unnecessary differences. I have a number of comments, but most of them are very minor.

**Comment by grunweg** [comment]
I pushed a fix for one of the `backward` options --- I'll be happy to walk you through it in person.

File: Mathlib/Geometry/Manifold/Submersion.lean (hunk 17 above)
Comment (Marygold-Dusk) [reply Mathlib/Geometry/Manifold/Submersion.lean:153]: How could I do this? Should I change 
variable {𝕜 E' E'' E''' F F' H H' G G' : Type*} {E : Type u} to 
variable {𝕜 E' E'' E''' F F' H H' G G' : Type*} {E : Type u} {E'' : Type u}?

Comment (Marygold-Dusk) [reply Mathlib/Geometry/Manifold/Submersion.lean:153]: No, that does not work.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Submersion.lean:153]: The code is already fine, there should simply be a comment added. (My suggestion has a typo, it should say `E` instead.)

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 27]
```diff
@@ -0,0 +1,655 @@
...
+While the particular choice of complement is often not important, choosing a complement is useful
+in some settings, such as proving that embedded submanifolds are locally given either by an
+immersion or a submersion.
+Unless you have a particular reason, prefer to use `IsSubmersionAt` instead.
+-/
+irreducible_def IsSubmersionAtOfComplement (f : M → N) (x : M) : Prop :=
+  LiftSourceTargetPropertyAt I J n f x (SubmersionAtProp F I J M N)
+
+-- Lift the universe from `E`, to avoid a free universe parameter.
+
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean:155]:
```suggestion
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 28]
```diff
@@ -0,0 +1,654 @@
...
+module
+
+public import Mathlib.Geometry.Manifold.IsManifold.ExtChartAt
+public import Mathlib.Geometry.Manifold.LocalSourceTargetProperty
+public import Mathlib.Analysis.Normed.Module.Shrink
+public import Mathlib.Topology.Algebra.Module.TransferInstance
+
+/-! # Smooth submersions
+
+In this file, we define `C^n` submersions between `C^n` manifolds.
```
Comment (chrisflav) [inline Mathlib/Geometry/Manifold/Submersion.lean:15]: Please also add the Margalef-Roig - Dominguez reference here (I assume they also cover submersions).

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 29]
```diff
@@ -0,0 +1,654 @@
...
+  replacing the complement `F` by an isomorphic copy.
+* `isOpen_isSubmersionAtOfComplement` and `isOpen_isSubmersionAt`:
+  the set of points where `IsSubmersionAt(OfComplement)` holds is open.
+* `IsSubmersionAt.prodMap` and `IsSubmersion.prodMap`: the product of two submersions (at a point)
+  is an submersion (at the product point).
+
+## Implementation notes
+
+* In most applications, there is no need to control the choice of complement in the definition of a
+  submersion, so `IsSubmersion(At)` is perfectly adequate. Nevertheless, explicit control over
```
Comment (chrisflav) [inline Mathlib/Geometry/Manifold/Submersion.lean]: I think we can safely refer to the (almost identical) implementation notes in the `Immersion` file here instead of repeating them.

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 30]
```diff
@@ -0,0 +1,654 @@
...
+  [NormedAddCommGroup E''] [NormedSpace 𝕜 E''] [NormedAddCommGroup E'''] [NormedSpace 𝕜 E''']
+  [NormedAddCommGroup F] [NormedSpace 𝕜 F] [NormedAddCommGroup F'] [NormedSpace 𝕜 F']
+  [TopologicalSpace H] [TopologicalSpace H'] [TopologicalSpace G] [TopologicalSpace G']
+  {I : ModelWithCorners 𝕜 E H} {I' : ModelWithCorners 𝕜 E' H'}
+  {J : ModelWithCorners 𝕜 E'' G} {J' : ModelWithCorners 𝕜 E''' G'}
+
+variable {M M' N N' : Type*}
+  [TopologicalSpace M] [ChartedSpace H M] [TopologicalSpace M'] [ChartedSpace H' M']
+  [TopologicalSpace N] [ChartedSpace G N] [TopologicalSpace N'] [ChartedSpace G' N']
+  {n : WithTop ℕ∞}
```
Comment (chrisflav) [inline Mathlib/Geometry/Manifold/Submersion.lean:110]:
```suggestion
  {n : ℕ∞ω}
```
We now have notation for this.

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 31]
```diff
@@ -0,0 +1,654 @@
...
+being an immersion at `x` includes a choice of linear isomorphism between `E'' × F` and `E`.
+While the particular choice of complement is often not important, choosing a complement is useful
+in some settings, such as proving that embedded submanifolds are locally given either by an
+immersion or a submersion.
+Unless you have a particular reason, prefer to use `IsSubmersionAt` instead.
+-/
+irreducible_def IsSubmersionAtOfComplement (f : M → N) (x : M) : Prop :=
+  LiftSourceTargetPropertyAt I J n f x (SubmersionAtProp F I J M N)
+
+-- Lift the universe from `E`, to avoid a free universe parameter.
```
Comment (chrisflav) [inline Mathlib/Geometry/Manifold/Submersion.lean:154]: I don't know what "Lift the universe" means? Do you want to say "Use the universe from .."?

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 32]
```diff
@@ -0,0 +1,654 @@
...
+in the `atlas` would be too optimistic: lying in the `maximalAtlas` is sufficient.
+
+This definition has a fixed parameter `F`, which is a choice of complement of `E''` in `E`:
+being an immersion at `x` includes a choice of linear isomorphism between `E'' × F` and `E`.
+While the particular choice of complement is often not important, choosing a complement is useful
+in some settings, such as proving that embedded submanifolds are locally given either by an
+immersion or a submersion.
+Unless you have a particular reason, prefer to use `IsSubmersionAt` instead.
+-/
+irreducible_def IsSubmersionAtOfComplement (f : M → N) (x : M) : Prop :=
```
Comment (chrisflav) [inline Mathlib/Geometry/Manifold/Submersion.lean]: Can we use `@[no_expose]` here instead of `irreducible_def`? With this the slightly unfortunate `rw` in a definition in `domChart` below would no longer be needed (you will also have to add a `@[no_expose]` there or just drop the `@[expose]` from the `public section` above).

I am aware that this is deviating from the `Immersion` implementation, but immersions might have landed before the module system switch.

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 33]
```diff
@@ -0,0 +1,654 @@
...
+
+instance (hf : IsSubmersionAtOfComplement F I J n f x) : NormedAddCommGroup hf.smallComplement :=
+  haveI := hf.small
+  inferInstanceAs <| NormedAddCommGroup (Shrink F)
+
+instance (hf : IsSubmersionAtOfComplement F I J n f x) : NormedSpace 𝕜 hf.smallComplement :=
+  haveI := hf.small
+  inferInstanceAs <| NormedSpace 𝕜 (Shrink F)
+
+/-- Given an submersion `f` at `x` w.r.t. a complement `F`, this construction provides
```
Comment (chrisflav) [inline Mathlib/Geometry/Manifold/Submersion.lean]:
```suggestion
/-- Given a submersion `f` at `x` w.r.t. a complement `F`, this construction provides
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 34]
```diff
@@ -0,0 +1,654 @@
...
+    IsSubmersionAtOfComplement F' I J n f x := by
+  rw [IsSubmersionAtOfComplement_def]
+  refine ⟨h.domChart, h.codChart, h.mem_domChart_source, h.mem_codChart_source,
+    h.domChart_mem_maximalAtlas, h.codChart_mem_maximalAtlas, h.source_subset_preimage_source, ?_⟩
+  use h.equiv.trans ((ContinuousLinearEquiv.refl 𝕜 E'').prodCongr e)
+  apply Set.EqOn.trans h.writtenInCharts
+  intro x hx
+  simp
+
+/-- Being an submersion at `x` w.r.t. `F` is stable under replacing `F` by an isomorphic copy. -/
```
Comment (chrisflav) [inline Mathlib/Geometry/Manifold/Submersion.lean]:
```suggestion
/-- Being a submersion at `x` w.r.t. `F` is stable under replacing `F` by an isomorphic copy. -/
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 35]
```diff
@@ -0,0 +1,654 @@
...
+namespace IsSubmersionOfComplement
+
+variable {f g : M → N}
+
+/-- If `f` is a submersion, it is a submersion at each point. -/
+lemma isSubmersionAt (h : IsSubmersionOfComplement F I J n f) (x : M) :
+    IsSubmersionAtOfComplement F I J n f x := h x
+
+/-- If `f = g` and `f` is a submersion, so is `g`. -/
+theorem congr (h : IsSubmersionOfComplement F I J n f) (heq : f = g) :
```
Comment (chrisflav) [inline Mathlib/Geometry/Manifold/Submersion.lean]: I don't think this lemma is necessary (I think I made the same remark for `Immersion`s back then). What was the reason why it was still added?

**Review by chrisflav — COMMENTED** [review]
Thanks! Everything looks quite clean and as far as I can see, faithfully mirrors the `Immersion` file. I have left some comments below, feel free to ping me again when this is ready for review again.

File: Mathlib/Geometry/Manifold/Submersion.lean (hunk 31 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Submersion.lean:154]: That's a better phrasing, indeed!

File: Mathlib/Geometry/Manifold/Submersion.lean (hunk 35 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Submersion.lean]: I believe it was "you didn't care strongly about having it and I didn't care strongly about changing the PR". I'm happy to drop it (also from immersions) if you prefer.

Comment (chrisflav) [reply Mathlib/Geometry/Manifold/Submersion.lean]: Now you should have some more practical experience with this definition: Did you ever use this lemma?

File: Mathlib/Geometry/Manifold/Submersion.lean (hunk 32 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Submersion.lean]: `irreducible_def` works also without the module system; this was important for `IsImmersion.prod` at some point...

Making lots of things `no_expose` is nice, though. Hm...

Comment (chrisflav) [reply Mathlib/Geometry/Manifold/Submersion.lean]: I don't understand the statement about `IsImmersion.prod`. What do you mean by "this was important"? We won't remove the module system anytime soon.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Submersion.lean]: This is how the analogous change for immersions would look: #39002
If not for the module system questions, I'd take it immediately.

File: Mathlib/Geometry/Manifold/Submersion.lean (hunk 28 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Submersion.lean:15]: The situation is actually slightly complicated: this PR follows the definition in Schmeding, An Introduction to infinite-dimensional differential geometry. Margalef-Roig and Dominguez use a slightly different definition... (I haven't fully thought through the differences yet.)

Comment (chrisflav) [reply Mathlib/Geometry/Manifold/Submersion.lean:15]: Then please add the Schmeding reference.

File: Mathlib/Geometry/Manifold/Submersion.lean (hunk 32 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Submersion.lean]: After some thought, I think this PR should make the changes analogous to #39002.
@Marygold-Dusk I'll be happy to walk to through that PR tomorrow.

File: Mathlib/Geometry/Manifold/Submersion.lean (hunk 28 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Submersion.lean:15]: Fair; let me do so!

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 36]
```diff
@@ -0,0 +1,626 @@
...
+    (hwrittenInExtend : EqOn ((codChart.extend J) ∘ f ∘ (domChart.extend I).symm) (Prod.fst ∘ equiv)
+      (domChart.extend I).target) : IsSubmersionAt I J n f x := by
+  have aux : IsSubmersionAtOfComplement F I J n f x := by
+    apply IsSubmersionAtOfComplement.mk_of_continuousAt <;> assumption
+  use aux.smallComplement, by infer_instance, by infer_instance
+  rwa [← IsSubmersionAtOfComplement.congr_F aux.smallEquiv]
+
+/-- A choice of complement of the model normed space `E` of `M` in the model normed space
+`E'` of `N` -/
+@[no_expose] def complement (h : IsSubmersionAt I J n f x) : Type u := Classical.choose h
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]:
```suggestion
def complement (h : IsSubmersionAt I J n f x) : Type u := Classical.choose h
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 37]
```diff
@@ -0,0 +1,626 @@
...
+in the `atlas` would be too optimistic: lying in the `maximalAtlas` is sufficient.
+
+This definition has a fixed parameter `F`, which is a choice of complement of `E''` in `E`:
+being an immersion at `x` includes a choice of linear isomorphism between `E'' × F` and `E`.
+While the particular choice of complement is often not important, choosing a complement is useful
+in some settings, such as proving that embedded submanifolds are locally given either by an
+immersion or a submersion.
+Unless you have a particular reason, prefer to use `IsSubmersionAt` instead.
+-/
+@[no_expose] def IsSubmersionAtOfComplement (f : M → N) (x : M) : Prop :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]: You should be able to remove `@[no_expose]` from each definition. (Instances seemingly need it still.)

Can you go over all definitions in this file and check? Thanks!

**Review by grunweg — COMMENTED** [review]
Getting there!

**Comment by grunweg** [comment]
It seems this Pr is ready for review again. @chrisflav

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 38]
```diff
@@ -0,0 +1,626 @@
...
+
+@[no_expose] instance (h : IsSubmersion I J n f) : NormedSpace 𝕜 h.complement :=
+  Classical.choose <| Classical.choose_spec <| Classical.choose_spec h
+
+lemma isSubmersionOfComplement_complement (h : IsSubmersion I J n f) :
+    IsSubmersionOfComplement h.complement I J n f :=
+  Classical.choose_spec <| Classical.choose_spec <| Classical.choose_spec h
+
+/-- If `f` is a submersion, it is a submersion at each point.
+-/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Submersion.lean]:
```suggestion
/-- If `f` is a submersion, it is a submersion at each point. -/
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 39]
```diff
@@ -0,0 +1,626 @@
...
+lemma isSubmersionAt (h : IsSubmersion I J n f) (x : M) : IsSubmersionAt I J n f x := by
+  rw [IsSubmersionAt]
+  use h.complement, by infer_instance, by infer_instance
+  exact h.isSubmersionOfComplement_complement x
+
+/-- If `f = g` and `f` is a submersion, so is `g`. -/
+theorem congr (h : IsSubmersion I J n f) (heq : f = g) : IsSubmersion I J n g :=
+  heq ▸ h
+
```
Comment (chrisflav) [inline Mathlib/Geometry/Manifold/Submersion.lean]: I would still prefer to remove this congr lemma.
```suggestion
```

**Review by chrisflav — APPROVED** [review]
Modulo one comment, LGTM!

**Comment by chrisflav** [comment]
Great, thanks!

maintainer merge

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 40]
```diff
@@ -0,0 +1,621 @@
...
+This version does not assume that `f` maps `φ.source` to `ψ.source`,
+but that `f` is continuous at `x`. -/
+lemma mk_of_continuousAt {f : M → N} {x : M} (hf : ContinuousAt f x) (equiv : E ≃L[𝕜] (E'' × F))
+    (domChart : OpenPartialHomeomorph M H) (codChart : OpenPartialHomeomorph N G)
+    (hx : x ∈ domChart.source) (hfx : f x ∈ codChart.source)
+    (hdomChart : domChart ∈ IsManifold.maximalAtlas I n M)
+    (hcodChart : codChart ∈ IsManifold.maximalAtlas J n N)
+    (hwrittenInExtend : EqOn ((codChart.extend J) ∘ f ∘ (domChart.extend I).symm) (Prod.fst ∘ equiv)
+      (domChart.extend I).target) : IsSubmersionAtOfComplement F I J n f x := by
+  exact LiftSourceTargetPropertyAt.mk_of_continuousAt hf
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Submersion.lean]:
```suggestion
      (domChart.extend I).target) : IsSubmersionAtOfComplement F I J n f x :=
  LiftSourceTargetPropertyAt.mk_of_continuousAt hf
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 41]
```diff
@@ -0,0 +1,621 @@
...
+
+lemma property (h : IsSubmersionAtOfComplement F I J n f x) :
+    LiftSourceTargetPropertyAt I J n f x (SubmersionAtProp F I J M N) := h
+
+/-- If `f` is a submersion at `x`, it maps its domain chart's target to its codomain chart's target:
+`(h.domChart.extend I).target` to `(h.domChart.extend J).target`.
+
+See `target_subset_preimage_target` for a version stated using preimages instead of images.
+-/
+lemma map_target_subset_target (h : IsSubmersionAtOfComplement F I J n f x) :
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Submersion.lean]: given the form of the lemma, this should be named `image_target_subset_target`.

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 42]
```diff
@@ -0,0 +1,621 @@
...
+  intro x hx
+  simp
+
+/-- Being a submersion at `x` w.r.t. `F` is stable under replacing `F` by an isomorphic copy. -/
+lemma congr_F (e : F ≃L[𝕜] F') :
+    IsSubmersionAtOfComplement F I J n f x ↔ IsSubmersionAtOfComplement F' I J n f x :=
+  ⟨fun h ↦ trans_F (e := e) h, fun h ↦ trans_F (e := e.symm) h⟩
+
+/- The set of points where `IsSubmersionAtOfComplement` holds is open. -/
+lemma _root_.isOpen_isSubmersionAt :
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Submersion.lean]:
```suggestion
lemma _root_.isOpen_isSubmersionAtOfComplement :
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 43]
```diff
@@ -0,0 +1,621 @@
...
+
+@[no_expose] instance (h : IsSubmersionAt I J n f x) : NormedAddCommGroup h.complement :=
+  Classical.choose (Classical.choose_spec h)
+
+@[no_expose] instance (h : IsSubmersionAt I J n f x) : NormedSpace 𝕜 h.complement :=
+  Classical.choose <| Classical.choose_spec <| Classical.choose_spec h
+
+lemma isSubmersionAtOfComplement_complement (h : IsSubmersionAt I J n f x) :
+    IsSubmersionAtOfComplement h.complement I J n f x :=
+   Classical.choose_spec <| Classical.choose_spec <| Classical.choose_spec h
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Submersion.lean]:
```suggestion
  Classical.choose_spec <| Classical.choose_spec <| Classical.choose_spec h
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 44]
```diff
@@ -0,0 +1,621 @@
...
+      (h.domChart.extend I).target :=
+  h.isSubmersionAtOfComplement_complement.writtenInCharts
+
+lemma property (h : IsSubmersionAt I J n f x) :
+    LiftSourceTargetPropertyAt I J n f x (SubmersionAtProp h.complement I J M N) :=
+  h.isSubmersionAtOfComplement_complement.property
+
+/-- If `f` is a submersion at `x`, it maps its domain chart's target to its codomain chart's target:
+`(h.domChart.extend I).target` to `(h.domChart.extend J).target`. -/
+lemma map_target_subset_target (h : IsSubmersionAt I J n f x) :
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Submersion.lean]:
```suggestion
lemma image_target_subset_target (h : IsSubmersionAt I J n f x) :
```

File: Mathlib/Geometry/Manifold/Submersion.lean [hunk 45]
```diff
@@ -0,0 +1,621 @@
...
+  exact hf.isSubmersionAtOfComplement_complement.congr_of_eventuallyEq hfg
+
+/-- If `f = g` on some neighbourhood of `x`,
+then `f` is a submersion at `x` if and only if `g` is a submersion at `x`. -/
+lemma congr_iff (hfg : f =ᶠ[𝓝 x] g) :
+    IsSubmersionAt I J n f x ↔ IsSubmersionAt I J n g x :=
+  ⟨fun h ↦ h.congr_of_eventuallyEq hfg, fun h ↦ h.congr_of_eventuallyEq hfg.symm⟩
+
+/- The set of points where `IsSubmersionAt` holds is open. -/
+lemma _root_.isOpen_isSubmersionAt' :
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Submersion.lean]:
```suggestion
lemma _root_.isOpen_isSubmersionAt :
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
